US05364871
A solution of 4-(6-aminopyridin-2-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (5.0 g) in water (50 ml) was adjusted to pH 11 with 5N-sodium hydroxide and the mixture was extracted with a mixture of tetrahydrofuran and ethyl acetate. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give 4-(6-aminopyridin-2-yl)-2-(diaminomethyleneamino)thiazole (3.62 g).

reactant | 4-(6-aminopyridin-2-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 5.0 g | Cl.Cl.NC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 4-(6-aminopyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 3.62 g | NC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C9H10N6S
